US05395752
A solution of N,N-dimethylaminoethyl 2-(N,N-dimethylamino)ethoxy-benz[b]acridine-12-carboxylate (86 mg, 0.20 mmol ) in 4 N sodium hydroxide (7.3 ml) and methanol (22 ml) was stirred at 65° C. for 1 hour and at 35° C. for 15 hours. The reaction mixture was evaporated under reduced pressure to dryness. The residue was washed with water (5 ml) and air-dried, yielding 2-(N,N-dimethylamino)ethoxybenz[b]acridine-12-carboxylic acid (23 mg, 32%). Rf 0.3 (silica gel, chloroform/methanol/water 65:25:4). MS (FAB, Glycerol Matrix): m/z 361 (M+1).

reactant | N,N-dimethylaminoethyl 2-(N,N-dimethylamino)ethoxy-benz[b]acridine-12-carboxylate | 0.20 mmol, 86 mg | CN(C)CCOC1=CC=CC=2N=C3C=C4C(=CC3=C(C12)C(=O)OCCN(C)C)C=CC=C4 | C26H29N3O3
solvent | sodium hydroxide | 4 N, 7.3 ml | [OH-].[Na+]
solvent | methanol | 22 ml | CO | CH4O
product | 2-(N,N-dimethylamino)ethoxybenz[b]acridine-12-carboxylic acid | 23 mg, 32% | CN(C)CCOC1=CC=CC=2N=C3C=C4C(=CC3=C(C12)C(=O)O)C=CC=C4 | C22H20N2O3
